US08580957B2
A flask was charged with methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.449 g, 1.625 mmol), 1-methylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate (for a preparation see Intermediate 100) (0.5 g, 1.354 mmol), sodium bicarbonate (saturated solution) (1.5 mL, 1.354 mmol) and bis(diphenylphosphino)ferrocene]dichloropalladium(II)-DCM adduct (0.111 g, 0.135 mmol) then filled with 1,4-dioxane (7 mL). The resulting mixture was degassed by bubbling nitrogen in to it, stirred at 100° C. for 1 hr under microwave irradiation then cooled to room temperature. The reaction mixture was filtered through celite and concentrated in vacuovacuo. The residue was partitioned between EtOAC (30 mL) and water (30 mL) and the layers were separated. The organic phase was washed with brine (25 mL) dried over MgSO4 and concentrated in vacuovacuo. Purification of the residue by flash chromatography on silica gel (gradient:0 to 60% AcOEt in Hexanes) gave methyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]-3-methylbenzoate (337 mg, 0.769 mmol, 56.8%) as a light yellow solid.

reactant | methyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.625 mmol, 0.449 g | CC=1C=C(C(=O)OC)C=CC1B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | 1-methylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | CC(C)OC(N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)Br)C(C)=O)C)=O | C16H21BrN2O3
reactant | sodium bicarbonate | 1.354 mmol, 1.5 mL | C([O-])(O)=O.[Na+]
catalyst | bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) DCM | 0.135 mmol, 0.111 g | Cl[Pd]Cl.C(Cl)Cl
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | methyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]-3-methylbenzoate | 0.769 mmol, 337 mg, 56.8% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=C(C=C(C(=O)OC)C=C1)C)NC(=O)OC(C)C)C | C25H30N2O5
